US04183948
A mixture of (+)-cis/trans-3-(3,3,3-trifluoro-2-trifluoromethyl-prop-1-en-1-yl)-2,2-dimethylcyclopropane carboxylic acid (0.4 g) and thionyl chloride (5.0 ml) was heated at the reflux temperature for a period of 2 hours, after which the excess thionyl chloride was removed by distillation under reduced pressure, leaving (+)-cis/trans-1-chlorocarbonyl-3-(3,3,3-trifluoro-2-trifluoromethyl-prop-1-en-1-yl)-2,2-dimethylcyclopropane.

reactant | trans-3-(3,3,3-trifluoro-2-trifluoromethyl-prop-1-en-1-yl)-2,2-dimethylcyclopropane carboxylic acid | 0.4 g | FC(C(=C[C@@H]1C([C@H]1C(=O)O)(C)C)C(F)(F)F)(F)F | C10H10F6O2
reactant | thionyl chloride | 5.0 ml | S(=O)(Cl)Cl | Cl2OS
product | trans-1-chlorocarbonyl-3-(3,3,3-trifluoro-2-trifluoromethyl-prop-1-en-1-yl)-2,2-dimethylcyclopropane | ClC(=O)[C@@H]1C([C@H]1C=C(C(F)(F)F)C(F)(F)F)(C)C | C10H9ClF6O
